US07989457B2
Step C. 3-(3-Fluoro-4-{1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-heptyloxy}-benzoylamino)-propionic acid methyl ester
Combine 3-Fluoro-4-{1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-heptyloxy}-benzoic acid (0.033 g, 0.07 mmol), PyBOP (0.044 g, 0.084 mmol), 3-amino-propionic acid methyl ester hydrochloride (0.0195 g, 0.14 mmol) and triethyl-amine (0.04 mL, 0.28 mmol) in N,N-dimethyl-formamide (1.5 mL). Stir for sixteen hours at room temperature. Dilute reaction with ethyl acetate and water. Wash organic layer with water two times then wash with saturated sodium chloride solution. Dry organic fraction with Na2SO4, filter and concentrate under reduced pressure. Purify on silica gel chromatography (30-80% Ethyl acetate/hexanes gradient) to provide 0.04 g of title compound (99%).

reactant | 3-Fluoro-4-{1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-heptyloxy}-benzoic acid | 0.07 mmol, 0.033 g | FC=1C=C(C(=O)O)C=CC1OC(CCCCCC)C=1C=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F | C26H25F4NO3
reactant | PyBOP | 0.084 mmol, 0.044 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 3-amino-propionic acid methyl ester hydrochloride | 0.14 mmol, 0.0195 g | Cl.COC(CCN)=O
reactant | triethyl-amine | 0.28 mmol, 0.04 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethyl-formamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3-Fluoro-4-{1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-heptyloxy}-benzoylamino)-propionic acid methyl ester | 0.04 g, 99% | COC(CCNC(C1=CC(=C(C=C1)OC(CCCCCC)C=1C=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)F)=O)=O | C30H32F4N2O4
